US04778800
500 mg of 5-(1-ethoxyethyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester was refluxed with 5 ml of 1N sodium hydroxide solution and 20 ml of ethanol for 3 hours. Then it was acidified with glacial acetic acid, suctioned off and washed with water. 400 mg of 5-(1-ethoxyethyl)-4-methyl-beta-carboline-3-carboxylic acid was obtained, which after good drying over phosphorus pentoxide in a vacuum was further reacted.

reactant | 5-(1-ethoxyethyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)C(C)OCC | C19H22N2O3
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(1-ethoxyethyl)-4-methyl-beta-carboline-3-carboxylic acid | 400 mg | C(C)OC(C)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)O)C | C17H18N2O3
